US03998954
A mixture of tetrahydrohomophthalic acid (9.2 g., 0.05 mole) and allylamine (2.8 g., 0.05 mole) is heated by an oil bath until molten for 40 minutes. The mixture solidifies upon cooling, and is recrystallized twice from isopropanol, giving 2-allyl-5,6,7,8-tetrahydroisoquinoline-1,3(2H, 4H)-dione.

reactant | tetrahydrohomophthalic acid | 0.05 mole, 9.2 g | C(CC1C(C(=O)O)CCC=C1)(=O)O | C9H12O4
reactant | allylamine | 0.05 mole, 2.8 g | C(C=C)N | C3H7N
product | 2-allyl-5,6,7,8-tetrahydroisoquinoline-1,3(2H, 4H)-dione | C(C=C)N1C(C=2CCCCC2CC1=O)=O | C12H15NO2
